US09169259B2
A mixture of 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (50 mg, 0.121 mmol), 2-aminopropan-1-ol (10 mg, 0.133 mmol), 1-methyl-1H-imidazole (40 mg, 0.484 mmol) and EDCI (92 mg, 0.484 mmol) in dichloromethane (10 mL) and DMF (0.2 mL) was stirred at room temperature for 20 h then extracted with ethyl acetate (50 mL) and washed with water (2×2 mL), then brine (2×2 mL). After drying and concentration, the residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, methanol:dichloromethane=1:50) and further purified by Prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 45% acetonitrile/55% water (0.1% TFA, v/v) in a linear fashion over 9 min) to afford N-(1-hydroxypropan-2-yl)-3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamide (8.7 mg, 14%) as a yellow solid. 1H NMR (300 MHz, CD3OD): δ 8.91 (s, 1H), 8.46 (s, 1H), 8.37 (s, 1H), 8.17-8.00 (m, 4 h), 7.65 (t, 1H, J=7.8 Hz), 7.58-7.55 (m, 1H), 6.40 (d, 1H, J=7.5 Hz), 6.28 (d, 1H, J=8.4 Hz), 4.25-4.21 (m, 2H), 3.71-3.58 (m, 3H), 3.54-3.48 (m, 1H), 2.19-2.07 (m, 3H), 1.81 (brs, 1H), 1.29 (d, 3H, J=6.3 Hz), 1.19 (d, 3H, J=6.0 Hz). LC-MS: [M+H]+, 472, tR=1.654 min, HPLC: 99.36% at 214 nm, 98.85% at 254 nm, tR=5.697 min.

reactant | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.121 mmol, 50 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C23H22N6O2
reactant | 2-aminopropan-1-ol | 0.133 mmol, 10 mg | NC(CO)C | C3H9NO
reactant | 1-methyl-1H-imidazole | 0.484 mmol, 40 mg | CN1C=NC=C1 | C4H6N2
reactant | EDCI | 0.484 mmol, 92 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | N-(1-hydroxypropan-2-yl)-3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamide | 8.7 mg, 14% | OCC(C)NC(C1=CC(=CC=C1)C=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C)=O | C26H29N7O2
